US07169761B2
1-bromo-2,4-dimethoxybenzene (9.1 ml) was added to a solution of 2,3,4,6-tetra-O-benzyl-1-O-(trifluoroacetyl)-α-D-glucopyranose (20.0 g) in methylene chloride (100 ml) and the mixture was stirred for 10 minutes. Boron trifluoride-diethyl ether complex (3.9 ml) was added to the reaction mixture and the mixture was stirred at room temperature for 12 hours. Water was added to the reaction mixture and the mixture was extracted with methylene chloride. The organic layer was washed with saturated brine and dried over anhydrous sodium sulfate. After filtration, the filtrate was concentrated. The residue was purified by silica gel column chromatography (n-hexane-ethyl acetate) to obtain (1S)-1,5-anhydro-2,3,4,6-tetra-O-benzyl-1-(5-bromo-2,4-dimethoxyphenyl)-D-glucitol (17.0 g).

reactant | 1-bromo-2,4-dimethoxybenzene | 9.1 ml | BrC1=C(C=C(C=C1)OC)OC | C8H9BrO2
reactant | 2,3,4,6-tetra-O-benzyl-1-O-(trifluoroacetyl)-α-D-glucopyranose | 20.0 g | C(C1=CC=CC=C1)O[C@H]1[C@@H](OC(C(F)(F)F)=O)O[C@@H]([C@H]([C@@H]1OCC1=CC=CC=C1)OCC1=CC=CC=C1)COCC1=CC=CC=C1 | C36H35F3O7
reactant | Water | O | H2O
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
product | (1S)-1,5-anhydro-2,3,4,6-tetra-O-benzyl-1-(5-bromo-2,4-dimethoxyphenyl)-D-glucitol | 17.0 g | C(C1=CC=CC=C1)O[C@H]1[C@@H](O[C@@H]([C@H]([C@@H]1OCC1=CC=CC=C1)OCC1=CC=CC=C1)COCC1=CC=CC=C1)C1=C(C=C(C(=C1)Br)OC)OC | C42H43BrO7
